US08580957B2
1,1-Dimethylethyl (2-{4-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]-1H-pyrazol-1-yl}ethyl)methylcarbamate (for a preparation see intermediate 55) (159 mg, 0.372 mmol), 4-bromopyridine (0.071 mL, 0.744 mmol), 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine (DavePhos) (58.5 mg, 0.149 mmol), tris(dibenzylideneacetone)dipalladium(0) (68.1 mg, 0.074 mmol) and sodium tert-butoxide (107 mg, 1.116 mmol) were dissolved in 1,4-dioxane (4 mL) and the resulting mixture was stirred at 120° C. under nitrogen for 16 h then cooled to room temperature and partitioned between EtOAc and a saturated NaHCO3 aqueous solution. The layers were separated and the aqueous phase was extracted with EtOAc. The combined organic phases were washed with brine, dried over MgSO4 and concentrated in vacuovacuo. Purification of the residue by SP4 using a 50 G silica cartridge (gradient:5 to 20% (2M NH3 in MeOH) in DCM) gave 1,1-dimethylethyl (2-{4-[(2S,4R)-1-acetyl-2-methyl-4-(4-pyridinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]-1H-pyrazol-1-yl}ethyl)methylcarbamate (147 mg, 0.29 mmol, 78%).

reactant | 1,1-Dimethylethyl (2-{4-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]-1H-pyrazol-1-yl}ethyl)methylcarbamate | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=NN(C1)CCN(C(OC(C)(C)C)=O)C)N)C | C23H33N5O3
reactant | 4-bromopyridine | 0.744 mmol, 0.071 mL | BrC1=CC=NC=C1 | C5H4BrN
reactant | 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine | 0.149 mmol, 58.5 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C=1C(=CC=CC1)N(C)C)C1CCCCC1 | C26H36NP
reactant | sodium tert-butoxide | 1.116 mmol, 107 mg | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.074 mmol, 68.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1,1-dimethylethyl (2-{4-[(2S,4R)-1-acetyl-2-methyl-4-(4-pyridinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]-1H-pyrazol-1-yl}ethyl)methylcarbamate | 0.29 mmol, 147 mg, 78% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=NN(C1)CCN(C(OC(C)(C)C)=O)C)NC1=CC=NC=C1)C | C28H36N6O3
